US03988457
To a mixture containing 5.0 g. of β-chloromethylnaphthalene, 3.0 g. of sodium carbonate and 30 ml. of dimethylformamide is added 4.6 g. of pyrimidinylpiperazine. The mixture is stirred and heated on a steam bath for approximately two hours. The mixture is then cooled, filtered and the filtrate is concentrated to a small volume in vacuo. The residue is washed with water and crystallized from ethanol to yield 1-(β-napthylmethyl)-4-(2-pyrimidinyl)-piperazine having a melting point of 109°-110° C.

reactant | β-chloromethylnaphthalene | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pyrimidinylpiperazine | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(β-napthylmethyl)-4-(2-pyrimidinyl)-piperazine | C1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C1=NC=CC=N1 | C19H20N4
